US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-oxo-2-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide
Using 3-oxo-2-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid (210 mg, 0.72 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (170 mg, 0.52 mmol), HATU (280 mg, 0.72 mmol), diisopropylethylamine (200 mg, 1.6 mmol) and N,N-dimethylformamide (6 mL) as starting materials and in the same manner as in Example 35, the title compound (240 mg, 77%) was obtained as a white solid.

reactant | 3-oxo-2-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.72 mmol, 210 mg | O=C1N(N(C=C1C(=O)O)CC(F)(F)F)C1=CC=CC=C1 | C12H9F3N2O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.52 mmol, 170 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | HATU | 0.72 mmol, 280 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.6 mmol, 200 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-oxo-2-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide | 240 mg, 77% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2)CC(F)(F)F)C2=CC=CC=C2)=O)F)C1 | C29H22F4N6O4
